US08258144B2
A mixture of 2,4-dichloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine (260 mg, 0.556 mmol), 4-fluoroaniline (0.055 mL, 0.581 mmol) and DIEA (0.300 mL, 1.72 mmol) in dioxane (4 mL) was stirred at 110° C. for 20 h. Water and EtOAc were added. The organic phase was separated, washed with 1N HCl, then with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give 2-chloro-N-(4-fluorophenyl)-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (230 mg).

reactant | 2,4-dichloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine | 0.556 mmol, 260 mg | ClC=1N=C(C2=C(N1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)Cl | C13H8Cl2IN3O2S
reactant | 4-fluoroaniline | 0.581 mmol, 0.055 mL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | DIEA | 1.72 mmol, 0.300 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-chloro-N-(4-fluorophenyl)-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 230 mg | ClC=1N=C(C2=C(N1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC=C(C=C2)F | C19H13ClFIN4O2S
